US06235750B1
C. 4-(4-(2-(2,5-Dimethylpyrrolyl)pyrid-6-yl)phenyl)piperidine
To a 100 mL round-bottomed flask equipped with condenser and N2 inlet were added 1.21 g (2.87 mmol) N-benzyl-4-(4-(2-(2,5-dimethylpyrrolyl)pyrid-6-yl)phenyl)piperidine, 30 mL ethanol, 0.90 g (14.37 mmol) ammonium formate, and 140 mg 10% palladium-on-carbon (Pd-C). The reaction was refluxed 1 hour treated with additional ammonium formate and Pd-C, and refluxed 3 hours. It was then cooled and filtered through Celite with ethanol and methylene chloride. The filtrate was evaporated, taken up in ethyl acetate and aqueous sodium bicarbonate solution, and the organic layer separated, washed with brine, dried over sodium sulfate, and evaporated to afford 734 mg (77%) of an oil.

reactant | N-benzyl-4-(4-(2-(2,5-dimethylpyrrolyl)pyrid-6-yl)phenyl)piperidine | 2.87 mmol, 1.21 g | C(C1=CC=CC=C1)N1CCC(CC1)C1=CC=C(C=C1)C1=CC=CC(=N1)C1=C(NC(=C1)C)C | C29H31N3
reactant | ammonium formate | 14.37 mmol, 0.90 g | C(=O)[O-].[NH4+]
catalyst | palladium-on-carbon | 140 mg | [Pd] | Pd
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 4-(4-(2-(2,5-Dimethylpyrrolyl)pyrid-6-yl)phenyl)piperidine | 734 mg, 77% | CC=1NC(=CC1C1=NC(=CC=C1)C1=CC=C(C=C1)C1CCNCC1)C | C22H25N3
